US07759370B2
(S)-2-Amino-2-(5-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)thiazol-2-yl)propan-1-ol (8a)
The title compound was prepared from (R)-tert-butyl 2,2,4-trimethyl-4-(5-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)thiazol-2-yl)oxazolidine-3-carboxylate. HPLC retention time on a C18 column (30×4.6 mm, 3.5μ) was 2.41 min with gradient 10-95% acetonitrile-H2O (0.1% TFA) in 3.5 min as mobile phase. MS (ESI, M+H+)=479.4; 1H NMR (400 MHz, CDCl3) δ 7.76 (s, 1H), 7.65 (d, 1H, J=2.0 Hz), 7.55 (dd, 1H, J=8.8 Hz, J=2.0 Hz), 7.28-7.23 (m, 2H), 7.18-7.15 (m, 3H), 6.96 (d, 1H, J=9.2 Hz), 4.06-3.99 (m, 4H), 2.62 (t, 2H, J=7.6 Hz), 1.85-1.78 (m, 5H), 1.69-1.62 (m, 2H), 1.56-1.50 (m, 2H), 1.44-1.38 (m, 2H).

reactant | (R)-tert-butyl 2,2,4-trimethyl-4-(5-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)thiazol-2-yl)oxazolidine-3-carboxylate | CC1(OC[C@@](N1C(=O)OC(C)(C)C)(C=1SC(=CN1)C1=CC(=C(C=C1)OCCCCCCC1=CC=CC=C1)C(F)(F)F)C)C | C33H41F3N2O4S
solvent | acetonitrile H2O | C(C)#N.O
product | (S)-2-Amino-2-(5-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)thiazol-2-yl)propan-1-ol | N[C@](CO)(C)C=1SC(=CN1)C1=CC(=C(C=C1)OCCCCCCC1=CC=CC=C1)C(F)(F)F | C25H29F3N2O2S
